US07781581B2
A solution of 2,4-diamino-5-bromo-pyrimidine (9.5 g, 50 mmol, 1.0 eq) and potassium ethyl xanthogenate (16 g, 100 mmol. 2 eq) in DMF (300 ml) was heated up to reflux for 10 hours under N2. The reaction solution was cooled down to room temperature and water (600 ml) was added. The pH of the solution was then adjusted to about 5 using H2SO4 (2 ml) and the resulting suspension was stirred at 50-60° C. for 30 min., cooled to about 30° C., filtered and washed with water. The product was dried under vacuum at 50-60° C. to give 8.2 g (89%) of 5-amino-3H-thiazolo[4,5-d]pyrimidin-2-thione as a yellow solid. 1H NMR (400 MHz, d6-DMSO). δ 6.91 (s, 2H, ex. D2O), 8.34 (s, 1H), 12.3 (br, 1H, ex. D2O); MS (+)-ES [M+H]+ m/z 185.

reactant | 2,4-diamino-5-bromo-pyrimidine | 50 mmol, 9.5 g, 1.0 eq | NC1=NC=C(C(=N1)N)Br | C4H5BrN4
reactant | potassium ethyl xanthogenate | 100 mmol, 16 g, 2 eq | CCOC(=S)[S-].[K+]
reactant | water | 600 ml | O | H2O
reactant | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 5-amino-3H-thiazolo[4,5-d]pyrimidin-2-thione | 8.2 g, 89% | NC=1N=CC2=C(N1)NC(S2)=S | C5H4N4S2
